US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-{3-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-ylmethyl)imidazo[4,5-c]pyridin-1-yl]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione dihydrochloride
A DMF solution(4 ml) of 5-(2,2-dihydroxyethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one(0.20 g), 7-[3-(3-aminopyridin-4-ylamino)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.37 g), and sodium hydrogensulfite(0.47 g) were heated at 180° C. for 10 minutes (microwave reactor). After the reaction liquid was condensed under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate: methanol=95:5→60:40). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution was added to an ethyl acetate solution of the residue, which was stirred at room temperature. The generated insoluble matter was separated by filtration, and dried to give the title compound(0.47 g) as a white amorphous solid.

reactant | 5-(2,2-dihydroxyethyl)-2-methyl-5H-furo[3,2-c]pyridine-4-one | 0.20 g | OC(CN1C(C2=C(C=C1)OC(=C2)C)=O)O | C10H11NO4
reactant | 7-[3-(3-aminopyridin-4-ylamino)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.37 g | NC=1C=NC=CC1NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C22H29N5O3
reactant | sodium hydrogensulfite | 0.47 g | S(=O)(O)[O-].[Na+]
reactant | hydrogen chloride ethyl acetate | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-3,3,5-trimethyl-7-{3-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-ylmethyl)imidazo[4,5-c]pyridin-1-yl]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione dihydrochloride | 0.47 g | Cl.Cl.C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(=NC=1C=NC=CC12)CN1C(C2=C(C=C1)OC(=C2)C)=O | InChI=1S/C32H34N6O5.2ClH/c1-6-37-25-9-8-21(17-26(25)35(5)30(40)32(3,4)31(37)41)42-15-7-13-38-24-10-12-33-18-23(24)34-28(38)19-36-14-11-27-22(29(36)39)16-20(2)43-27;;/h8-12,14,16-18H,6-7,13,15,19H2,1-5H3;2*1H
